US04400519
Benzil-di-(β-bromoethyl)ketal (13.26 g) and 8.91 g of sodium glutarimide were dissolved in 50 ml of N,N-dimethylformamide, and reacted at 50° C. for 7 hours. When the reaction mixture was poured into 200 ml of ice water, white crystals formed. These crystals were washed with water, and dried to give 13.6 g of benzil-di-(β-glutarimidoethyl)ketal.

reactant | Benzil-di-(β-bromoethyl)ketal | 13.26 g | BrCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCBr | C18H18Br2O3
reactant | sodium glutarimide | 8.91 g | C1(CCCC(N1)=O)=O.[Na]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | benzil-di-(β-glutarimidoethyl)ketal | 13.6 g | C1(CCCC(N1CCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCN1C(CCCC1=O)=O)=O)=O | C28H30N2O7
